datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21]CC>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CCCCCC)[H]>>CCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)C)C)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C([O-:21])C)C)C1=CC=CC=C1 10=20;20,21=21"
"[OH:10]C([H])C(C)C(C)C(C)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)C(C)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])=C([H])C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])/C([H])=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[OH:21][CH:20]2(OC)C3=C(C(C([NH+:10]2([H]))C)[H])C=CC=C3>>[NH:10]([H])C(C(C1=C(C=CC=C1)[CH:20](OC)=[OH+:21])[H])C  21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21]CC)[H]>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)[H].[O-:21]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)CCCCCC 10=20;20,21=21"
"[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC)[H])[H]>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC)[H])[H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(O)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)C(O)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]CC)([O][H])[NH]C.[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([O][H])[NH]C 21=20;20,10=10"
"[O:20]=[C:21](OC1=CC=CC=C1)OCC.[H][O:10][K]>>[H][O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)OCC 10=21;21,20=20"
"[H][NH:10]C(CC)C([H])[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[OH:10]C([H])C([H])C([C:20](OCC)=[OH+:21])O>>[OH:21][C:20]1(OCC)[OH+:10]C([H])C([H])C1O 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C1CC[N:10](C1)[CH:20]([Br:21])C>>C1CC[N+:10](=[CH:20]C)C1.[Br-:21] 10=20;20,21=21"
"[OH:10]C([H])/C(C)=C([H])\C(C)[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(C)C([H])=C(C)C([H])[OH+:10]1 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])CCCCCC 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
